US05401851
Ethyl 2-(4-nitro-1H-imidazol-1-yl)octanoate (17 moles, 5.0 g) and ethylamine (20 ml) were stirred in 150 ml ethanol at room temperature for 16 hours. The reaction was added to ice water, extracted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated. The oil crystallized upon standing to yield 3.9 g of N-Ethyl-2-(4-nitro-1H-imidazol-1-yl)octanoamide. (MS).

reactant | Ethyl 2-(4-nitro-1H-imidazol-1-yl)octanoate | 17 moles, 5.0 g | [N+](=O)([O-])C=1N=CN(C1)C(C(=O)OCC)CCCCCC | C13H21N3O4
reactant | ethylamine | 20 ml | C(C)N | C2H7N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-Ethyl-2-(4-nitro-1H-imidazol-1-yl)octanoamide | 3.9 g | C(C)NC(C(CCCCCC)N1C=NC(=C1)[N+](=O)[O-])=O | C13H22N4O3
